US08957066B2
(E)-ethyl 3-(1H-pyrazol-4-yl)acrylate
[(Ethoxycarbonyl)methylene]triphenylphosphorane (0.836 g, 2.4 mmol) was added to a solution of 1H-pyrazole-4-carbaldehyde (0.192 g, 2 mmol) in THF (6 mL) at room temperature. This solution was heated at 70° C. under a nitrogen atmosphere for 8 h.

reactant | [(Ethoxycarbonyl)methylene]triphenylphosphorane | 2.4 mmol, 0.836 g | C(C)OC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | 1H-pyrazole-4-carbaldehyde | 2 mmol, 0.192 g | N1N=CC(=C1)C=O | C4H4N2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (E)-ethyl 3-(1H-pyrazol-4-yl)acrylate | N1N=CC(=C1)/C=C/C(=O)OCC | C8H10N2O2
